### PR TITLE
[Merged by Bors] - feat(ContDiffHolder/Moreira): define $C^{k+(α)}$ maps

### PR DESCRIPTION
**Pull request by urkud**
From https://github.com/urkud/SardMoreira

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Comment by ADedecker** [comment]
Thanks a lot, this looks very good! I will write a proper review before Tuesday (if not feel free to ping me). One thing that seems odd to me is how you depict this as a technical tool specific to Moreira's proof: I was under the impression that this kind of definition is actually quite common, although I never had to use it myself. I will try to gather more references supporting this impression.

This affects the naming, notably: why not call this `ContDiffLocHolderAt`? The big-O condition is the same as being Holder on a neighborhood, right?

File: Mathlib/Analysis/Calculus/ContDiffHolder/Moreira.lean [hunk 1]
```diff
@@ -0,0 +1,255 @@
...
+public import Mathlib.Topology.MetricSpace.Holder
+
+/-!
+# `C^{k+(α)}` functions in the sense of Moreira
+
+In [Moreira2001], Moreira proves a version of the Morse-Sard theorem
+for a carefully chosen class of maps he calls $C^{k+(α)}$ maps.
+Namely, a map `f` is said to be $C^{k+(α)}$ at `a`,
+where `k` is a natural number and `0 ≤ α ≤ 1`,
+if it is $C^k$ at this point and $D^kf(x)-D^kf(a) = O(‖x - a‖ ^ k)$ as `x → a`.
```
Comment (ADedecker) [inline Mathlib/Analysis/Calculus/ContDiffHolder/Moreira.lean]:
```suggestion
if it is $C^k$ at this point and $D^kf(x)-D^kf(a) = O(‖x - a‖ ^ α)$ as `x → a`.
```
Right? Same at multiple points below.

File: Mathlib/Analysis/Calculus/ContDiffHolder/Moreira.lean [hunk 2]
```diff
@@ -0,0 +1,255 @@
...
+public import Mathlib.Analysis.Calculus.ContDiff.Basic
+public import Mathlib.Topology.MetricSpace.Holder
+
+/-!
+# `C^{k+(α)}` functions in the sense of Moreira
+
+In [Moreira2001], Moreira proves a version of the Morse-Sard theorem
+for a carefully chosen class of maps he calls $C^{k+(α)}$ maps.
+Namely, a map `f` is said to be $C^{k+(α)}$ at `a`,
+where `k` is a natural number and `0 ≤ α ≤ 1`,
```
Comment (ADedecker) [inline Mathlib/Analysis/Calculus/ContDiffHolder/Moreira.lean]: Would you mind adding a very short explanation on how we get a bad notion if we allow α > 1 ? Am I right that this forces the (k+1)-th derivative to exist and be zero, hence if this happens on an open set the function is actually smooth ?

**Comment by urkud** [comment]
> The big-O condition is the same as being Holder on a neighborhood, right?

No, since one of the points is fixed. The relation is like between Fréchet differentiability (analogous to this condition) vs strict differentiability (Hölder continuity on a nhd).

**Comment by ADedecker** [comment]
> > This affects the naming, notably: why not call this `ContDiffLocHolderAt`? The big-O condition is the same as being Holder on a neighborhood, right?
> 
> It looks like the right name is "pointwise Hölder". Indeed, it is used wider than I thought. I'll rename it tomorrow.

Ok great

File: Mathlib/Analysis/Calculus/ContDiffHolder/Moreira.lean (hunk 2 above)
Comment (urkud) [reply Mathlib/Analysis/Calculus/ContDiffHolder/Moreira.lean]: I'm not sure if `α > 1` in **this** definition leads to bad consequences. For usual Hölder continuity, this would mean that `k`th derivative is a constant, thus the function is a polynomial.

File: Mathlib/Analysis/Calculus/ContDiffHolder/Pointwise.lean [hunk 3]
```diff
@@ -0,0 +1,261 @@
...
+
+theorem of_lt (hf : ContDiffPointwiseHolderAt k α f a) (hlt : l < k) :
+    ContDiffPointwiseHolderAt l β f a :=
+  hf.contDiffAt.contDiffPointwiseHolderAt (mod_cast hlt) _
+
+theorem of_toLex_le (hf : ContDiffPointwiseHolderAt k α f a) (hle : toLex (l, β) ≤ toLex (k, α)) :
+    ContDiffPointwiseHolderAt l β f a :=
+  (Prod.Lex.le_iff.mp hle).elim hf.of_lt <| by rintro ⟨rfl, hle⟩; exact hf.of_exponent_le hle
+
+theorem of_le (hf : ContDiffPointwiseHolderAt k α f a) (hl : l ≤ k) :
```
Comment (ADedecker) [inline Mathlib/Analysis/Calculus/ContDiffHolder/Pointwise.lean]: What do you think about calling this `of_order_le`? I know it's not what we do for `ContDiff` but here there are two moving parameters

File: Mathlib/Analysis/Calculus/ContDiffHolder/Pointwise.lean [hunk 4]
```diff
@@ -0,0 +1,261 @@
...
+    ContDiffPointwiseHolderAt l α f a :=
+  hf.of_toLex_le <| Prod.Lex.toLex_mono ⟨hl, le_rfl⟩
+
+/-- If a function is $C^{k+α}$ on a neighborhood of a point `a`,
+i.e., it is $C^k$ on this neighborhood and $D^k f$ is Hölder continuous on it,
+then the function is $C^{k+(α)}$ at `a`. -/
+theorem of_contDiffOn_holderWith {s : Set E} {C : ℝ≥0} (hf : ContDiffOn ℝ k f s) (hs : s ∈ 𝓝 a)
```
Comment (ADedecker) [inline Mathlib/Analysis/Calculus/ContDiffHolder/Pointwise.lean]:
```suggestion
theorem of_contDiffOn_holderOnWith {s : Set E} {C : ℝ≥0} (hf : ContDiffOn ℝ k f s) (hs : s ∈ 𝓝 a)
```

File: Mathlib/Analysis/Calculus/ContDiffHolder/Pointwise.lean [hunk 5]
```diff
@@ -0,0 +1,261 @@
...
+/-- A function is $C^{k+(0)}$ at a point if and only if it is $C^k$ at the point. -/
+@[simp]
+theorem zero_exponent_iff : ContDiffPointwiseHolderAt k 0 f a ↔ ContDiffAt ℝ k f a := by
+  refine ⟨contDiffAt, fun h ↦ ⟨h, ?_⟩⟩
+  simpa using ((h.continuousAt_iteratedFDeriv le_rfl).sub_const _).norm.isBoundedUnder_le
+
+/-- A function is $C^{0+(α)}$ at a point if and only if
+it is $C^0$ at the point (i.e., it is continuous on a neighborhood of the point)
+and $f(x) - f(a) = O(‖x - a‖ ^ α)$. -/
+theorem zero_left_iff :
```
Comment (ADedecker) [inline Mathlib/Analysis/Calculus/ContDiffHolder/Pointwise.lean]:
```suggestion
theorem zero_order_iff :
```
Maybe? If the naming looks good to you maybe you can add to the docstring that `n` is the order and `α` the exponent.

File: Mathlib/Analysis/Calculus/ContDiffHolder/Pointwise.lean [hunk 6]
```diff
@@ -0,0 +1,261 @@
...
+        · obtain rfl : k = 0 := by
+            contrapose! hfd
+            exact hf.differentiableAt hfd
+          obtain rfl : i = 0 := by rwa [nonpos_iff_eq_zero] at hi
+          refine .of_norm_left ?_
+          simp only [ftaylorSeries, iteratedFDeriv_zero_eq_comp, Function.comp_apply, ← map_sub,
+            LinearIsometryEquiv.norm_map, isBigO_norm_left]
+          refine ((hd.resolve_right hfd).isBigO_sub.comp_tendsto hf.continuousAt).trans ?_
+          refine .trans (.of_norm_right ?_) hf.isBigO
+          simp [iteratedFDeriv_zero_eq_comp, ← map_sub, Function.comp_def, isBigO_refl]
```
Comment (ADedecker) [inline Mathlib/Analysis/Calculus/ContDiffHolder/Pointwise.lean]:
```suggestion
          exact (zero_left_iff.mp hf).2
```

File: Mathlib/Analysis/Calculus/ContDiffHolder/Pointwise.lean [hunk 7]
```diff
@@ -0,0 +1,261 @@
...
+  isBigO := calc
+    (iteratedFDeriv ℝ k (g ∘ f) · - iteratedFDeriv ℝ k (g ∘ f) a)
+      =ᶠ[𝓝 a] fun x ↦ (ftaylorSeries ℝ g (f x)).taylorComp (ftaylorSeries ℝ f x) k -
+        (ftaylorSeries ℝ g (f a)).taylorComp (ftaylorSeries ℝ f a) k := by
+      filter_upwards [hf.contDiffAt.eventually (by simp),
+        hf.continuousAt.eventually (hg.contDiffAt.eventually (by simp))] with x hfx hgx
+      rw [iteratedFDeriv_comp hgx hfx le_rfl,
+        iteratedFDeriv_comp hg.contDiffAt hf.contDiffAt le_rfl]
+    _ =O[𝓝 a] fun x ↦ ‖x - a‖ ^ (α : ℝ) := by
+      apply FormalMultilinearSeries.taylorComp_sub_taylorComp_isBigO
```
Comment (ADedecker) [inline Mathlib/Analysis/Calculus/ContDiffHolder/Pointwise.lean]: Nitpick:
```suggestion
      apply FormalMultilinearSeries.taylorComp_sub_taylorComp_isBigO <;> intro i hi
```
And then you can remove all the `intro`s below

File: Mathlib/Analysis/Calculus/ContDiffHolder/Pointwise.lean [hunk 8]
```diff
@@ -0,0 +1,261 @@
...
+protected theorem iteratedFDeriv (hf : ContDiffPointwiseHolderAt k α f a) (hl : l + m ≤ k) :
+    ContDiffPointwiseHolderAt l α (iteratedFDeriv ℝ m f) a := by
+  induction m generalizing l with
+  | zero =>
+    simpa +unfoldPartialApp [iteratedFDeriv_zero_eq_comp] using hf.of_le hl
+  | succ m ihm =>
+    rw [← add_assoc, add_right_comm] at hl
+    simpa +unfoldPartialApp [iteratedFDeriv_succ_eq_comp_left] using (ihm hl).fderiv l.lt_add_one
+
+theorem congr_eventuallyEq {g : E → F} (hf : ContDiffPointwiseHolderAt k α f a)
```
Comment (ADedecker) [inline Mathlib/Analysis/Calculus/ContDiffHolder/Pointwise.lean]:
```suggestion
theorem congr_of_eventuallyEq {g : E → F} (hf : ContDiffPointwiseHolderAt k α f a)
```
This seems to be the most common name, e.g [ContDiffAt.congr_of_eventuallyEq](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Analysis/Calculus/ContDiff/Defs.html#ContDiffAt.congr_of_eventuallyEq)

File: Mathlib/Analysis/Calculus/ContDiffHolder/Pointwise.lean [hunk 9]
```diff
@@ -0,0 +1,261 @@
...
+  isBigO := by
+    refine EventuallyEq.trans_isBigO (.sub ?_ ?_) hf.isBigO
+    · exact hfg.symm.iteratedFDeriv ℝ _
+    · rw [hfg.symm.iteratedFDeriv ℝ _ |>.self_of_nhds]
+
+theorem clm_apply {f : E → F →L[ℝ] G} {g : E → F} (hf : ContDiffPointwiseHolderAt k α f a)
+    (hg : ContDiffPointwiseHolderAt k α g a) :
+    ContDiffPointwiseHolderAt k α (fun x ↦ f x (g x)) a :=
+  (contDiffAt_fst.clm_apply contDiffAt_snd).contDiffPointwiseHolderAt (WithTop.coe_lt_top _) _
+    |>.comp_of_differentiableAt (hf.prodMk hg) <| .inl (by fun_prop)
```
Comment (ADedecker) [inline Mathlib/Analysis/Calculus/ContDiffHolder/Pointwise.lean]: I'm guessing people may need this kind of arguments in the future for other bilinear maps, would you mind adding the analog of [ContDiffAt.comp₂](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Analysis/Calculus/ContDiff/Basic.html#ContDiffAt.comp%E2%82%82) to streamline the proof?

File: Mathlib/Analysis/SpecialFunctions/Pow/Asymptotics.lean [hunk 10]
```diff
@@ -293,6 +293,23 @@ theorem IsBigO.mul_atTop_rpow_natCast_of_isBigO_rpow {f g : ℕ → E}
...
   exact Real.rpow_le_rpow_of_exponent_le ht h
 
+/-- If `a ≤ b`, then `x^b = O(x^a)` as `x → 0`, `x ≥ 0`, unless `b = 0` and `a ≠ 0`. -/
+theorem IsBigO.rpow_rpow_nhdsGE_zero_of_le_of_imp {a b : ℝ} (h : a ≤ b) (himp : b = 0 → a = 0) :
+    (· ^ b : ℝ → ℝ) =O[𝓝[≥] 0] (· ^ a) :=
+  .of_bound' <| mem_of_superset (Icc_mem_nhdsGE one_pos) fun x hx ↦ by
+    simpa [Real.abs_rpow_of_nonneg hx.1, abs_of_nonneg hx.1]
+     using Real.rpow_le_rpow_of_exponent_ge_of_imp hx.1 hx.2 h fun _ ↦ himp
+
+/-- If `a ≤ b`, `b ≠ 0`, then `x^b = O(x^a)` as `x → 0`, `x ≥ 0`, unless `b = 0` and `a ≠ 0`. -/
```
Comment (ADedecker) [inline Mathlib/Analysis/SpecialFunctions/Pow/Asymptotics.lean]:
```suggestion
/-- If `a ≤ b`, `b ≠ 0`, then `x^b = O(x^a)` as `x → 0`, `x ≥ 0`. -/
```
Right?

File: Mathlib/Analysis/Calculus/ContDiffHolder/Pointwise.lean [hunk 11]
```diff
@@ -0,0 +1,261 @@
...
+/-- A map `f` is said to be $C^{k+(α)}$ at `a`, where `k` is a natural number and `0 ≤ α ≤ 1`,
+if it is $C^k$ at this point and $D^kf(x)-D^kf(a) = O(‖x - a‖ ^ α)$ as `x → a`. -/
+@[mk_iff]
+structure ContDiffPointwiseHolderAt (k : ℕ) (α : I) (f : E → F) (a : E) : Prop where
+  /-- A $C^{k+(α)}$ map is a $C^k$ map. -/
+  contDiffAt : ContDiffAt ℝ k f a
+  /-- A $C^{k+(α)}$ map satisfies $D^kf(x)-D^kf(a) = O(‖x - a‖ ^ α)$ as `x → a`. -/
+  isBigO : (iteratedFDeriv ℝ k f · - iteratedFDeriv ℝ k f a) =O[𝓝 a] (‖· - a‖ ^ (α : ℝ))
+
+/-- A $C^n$ map is a $C^{k+(α)}$ map with any `k < n`. -/
```
Comment (ADedecker) [inline Mathlib/Analysis/Calculus/ContDiffHolder/Pointwise.lean]:
```suggestion
/-- A $C^n$ map is a $C^{k+(α)}$ map for any `k < n`. -/
```

**Review by ADedecker — APPROVED** [review]
Thanks and sorry for the delay!

bors d+

**Comment by urkud** [comment]
bors merge
